US07915261B2
An aqueous 1 M sodium hydroxide solution (1.11 ml) was added to a THF (5 ml) solution containing 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate (158 mg), followed by stirring at 60° C. for 3 hours. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform:methanol=10:1 (v/v)) to obtain (2E)-3-(5-{[(4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidin-1-yl)carbonyl]oxy}pyridin-3-yl)acrylic acid (88 mg).

reactant | sodium hydroxide | 1 M, 1.11 ml | [OH-].[Na+]
reactant | 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate | 158 mg | FC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC=3C=NC=C(C3)\C=C\C(=O)OC)C=C2)C=CC1 | C28H27FN2O6
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (2E)-3-(5-{[(4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidin-1-yl)carbonyl]oxy}pyridin-3-yl)acrylic acid | 88 mg | FC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC=3C=C(C=NC3)/C=C/C(=O)O)C=C2)C=CC1 | C27H25FN2O6
